US08119422B2
d) Synthesis of methyl 4-acetoxy-3-allyl-5-methylbenzoate
A solution of methyl 4-hydroxy-3-allyl-5-methylbenzoate (157 mg) in pyridine (5 mL) was cooled in an ice-bath under a nitrogen atmosphere and treated with acetic anhydride (1 mL). The reaction was stirred in the ice-bath for one hour and was then warmed to room temperature for 4 hours. The solvent was then removed under reduced pressure and the residue was suspended in anhydrous toluene (5-10 mL) and evaporated to dryness. The crude product was dissolved in ethyl acetate (30 mL) and washed with saturated aqueous ammonium chloride. It was then dried over anhydrous magnesium sulfate, filtered and evaporated to dryness to give a brown oil. Yield=0.176 g (quantitative).

reactant | methyl 4-hydroxy-3-allyl-5-methylbenzoate | 157 mg | OC1=C(C=C(C(=O)OC)C=C1C)CC=C | C12H14O3
reactant | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | methyl 4-acetoxy-3-allyl-5-methylbenzoate | C(C)(=O)OC1=C(C=C(C(=O)OC)C=C1C)CC=C | C14H16O4
